US07381728B2
Step 1: N-{3-Bromo-4-[(trifluoromethyl)oxy]phenyl}-4-iodobenzenesulfonamide
The title compound was prepared from 3-bromo-4-[(trifluoromethyl)oxy]aniline and 4-iodobenzenesulfonyl chloride using a similar method to that described for Examples 82-100. MS (ES−) m/e 520/522 [M−H]−.

reactant | 3-bromo-4-[(trifluoromethyl)oxy]aniline | BrC=1C=C(N)C=CC1OC(F)(F)F | C7H5BrF3NO
reactant | 4-iodobenzenesulfonyl chloride | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
product | N-{3-Bromo-4-[(trifluoromethyl)oxy]phenyl}-4-iodobenzenesulfonamide | BrC=1C=C(C=CC1OC(F)(F)F)NS(=O)(=O)C1=CC=C(C=C1)I | C13H8BrF3INO3S
